US05541324
N-(5-Fluoro-2-nitrophenyl)-2-methylalanine (II)
A mixture of 32.62 g of 2,4-difluoronitrobenzene, 24.2 g of 2-aminoisobutyric acid, 15.2 g of potassium carbonate, 100 ml of acetonitrile, and 100 ml of water is heated at 80° for 2 days (until TLC shows little or no starting material). The reaction is then cooled and acetonitrile is removed under reduced pressure. The pH is adjusted to 5 with 4N hydrochloric acid and the mixture is extracted with chloroform (3×300 ml). The organic layers are dried over sodium sulfate and concentrated. The material is used in the next step without further purification.

reactant | 2,4-difluoronitrobenzene | 32.62 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 2-aminoisobutyric acid | 24.2 g | NC(C(=O)O)(C)C | C4H9NO2
reactant | potassium carbonate | 15.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | N-(5-Fluoro-2-nitrophenyl)-2-methylalanine | FC=1C=CC(=C(C1)NC(C)(C(=O)O)C)[N+](=O)[O-] | C10H11FN2O4
